US06426345B1
A mixture of 3-nitrophenol (6.85 g), 2-chloropyrimidine (5.13 g) and potassium carbonate (6.81 g) in dimethylsulfoxide (50 ml) was heated at 150° C. for 30 minutes. The mixture was cooled and poured into a mixture of ethyl acetate and water. The organic phase was washed with brine, dried over magnesium sulfate and concentrated. The resulting solid was collected and washed with isopropyl ether to give 2-(3-nitrophenoxy)pyrimidine (7.41 g).

reactant | 3-nitrophenol | 6.85 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 2-chloropyrimidine | 5.13 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 6.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(3-nitrophenoxy)pyrimidine | 7.41 g | [N+](=O)([O-])C=1C=C(OC2=NC=CC=N2)C=CC1 | C10H7N3O3
